US07687502B2
[6-(2-Chloro-6-(methylsulfonyl)phenoxy)-quinazolin-4-yl]-(1-methyl-1H-pyrazol-3-yl)-amine
The compound of Example 91 was manufactured by the same method as in Example 95, by a similar method thereto or by a combination of such a method with a conventional method using 1,2-dichloro-3-methylsulfonylbenzene, 3-amino-1-methyl-1H-pyrazole and 4-chloro-6-hydroxy-quinazoline.

reactant | 1,2-dichloro-3-methylsulfonylbenzene | ClC1=C(C(=CC=C1)S(=O)(=O)C)Cl | C7H6Cl2O2S
reactant | 3-amino-1-methyl-1H-pyrazole | NC1=NN(C=C1)C | C4H7N3
reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
product | [6-(2-Chloro-6-(methylsulfonyl)phenoxy)-quinazolin-4-yl]-(1-methyl-1H-pyrazol-3-yl)-amine | ClC1=C(OC=2C=C3C(=NC=NC3=CC2)NC2=NN(C=C2)C)C(=CC=C1)S(=O)(=O)C | C19H16ClN5O3S
